US07153997B2
Boron trifluoride dimethyl sulfide (10 μL, 80 μmol) was added at room temperature to a stirred solution of methyl-N-[3,5-dichloro-4-(2-bromo-4-methoxy-5-isopropylphenoxy)benzoyl]glycine (1.0 mg, 2.0 μmol) and dichloromethane (0.50 mL). The reaction mixture was stirred at room temperature for 8 hours and then treated with ice-water, extracted with ethyl acetate and washed with water. The organic phase was dried over sodium sulphate and concentrated to give a light yellow solid. The solid was purified on column (MPLC, silica gel, chloroform/methanol/acetic acid, gradient elution from 1/0/0 to 95/5/0.5) to give 0.90 mg (94%) of N-[3,5-dichloro-4-(2-bromo-4-hydroxy-5-isopropylphenoxy)benzoyl]glycine. LC-MS (ES−1): m/z 476.

reactant | Boron trifluoride dimethyl sulfide | 80 μmol, 10 μL | CSC.B(F)(F)F
reactant | methyl-N-[3,5-dichloro-4-(2-bromo-4-methoxy-5-isopropylphenoxy)benzoyl]glycine | 2.0 μmol, 1.0 mg | CN(CC(=O)O)C(C1=CC(=C(C(=C1)Cl)OC1=C(C=C(C(=C1)C(C)C)OC)Br)Cl)=O | C20H20BrCl2NO5
solvent | dichloromethane | 0.50 mL | ClCCl | CH2Cl2
product | N-[3,5-dichloro-4-(2-bromo-4-hydroxy-5-isopropylphenoxy)benzoyl]glycine | 0.90 mg, 94% | ClC=1C=C(C(=O)NCC(=O)O)C=C(C1OC1=C(C=C(C(=C1)C(C)C)O)Br)Cl | C18H16BrCl2NO5
